US05817848
At room temperature a solution of 8.00 g of diphenylether (47.0 mmol) in 35 ml of THF was added dropwise to a mixture of 41.4 ml of 2.5M n-butyllithium in hexane (103.4 mmol) and 16.7 ml of TMEDA (103.4 mmol). When all phenylether was added, the reaction mixture was stirred for 16 h. The ethereal solution of 2,2'-dilithiodiphenylether and a solution of 5.7 ml of dimethyldichlorosilane (47.0 mmol) in 75 ml of ether were added simultaneously to 40 ml of ether over 1 h. The reaction mixture was stirred for 16 hr. then hydrolyzed by addition of 30 ml of water. The hydrolyzed mixture was stirred for 2 hr. The organic layer was separated, and the aqueous layer was extracted with 30 ml of ether. The combined organic layers were treated with Norit, and dried with MgSO4. The solvent was removed in vacuo. Small crystals formed during the concentration. The semisolid oil was crystallized form methanol, resulting in white crystals of 10,10-dimethylphenoxasilin with a grassy odour. Yield: 4.82 g (45%).

reactant | diphenylether | 47.0 mmol, 8.00 g | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
reactant | n-butyllithium | 2.5M, 41.4 ml | C(CCC)[Li]
reactant | hexane | 103.4 mmol | CCCCCC | C6H14
reactant | TMEDA | 103.4 mmol, 16.7 ml | CN(C)CCN(C)C | C6H16N2
reactant | dimethyldichlorosilane | 47.0 mmol, 5.7 ml | C[Si](Cl)(Cl)C | C2H6Cl2Si
solvent | THF | 35 ml | C1CCOC1 | C4H8O
solvent | ether | 75 ml | CCOCC | C4H10O
solvent | ether | 40 ml | CCOCC | C4H10O
solvent | water | 30 ml | O | H2O
product | 10,10-dimethylphenoxasilin | C[Si]1(C2=CC=CC=C2OC=2C=CC=CC12)C | C14H14OSi
